US09034900B2
Step 2: 3-bromo-5-(2,4-difluorophenoxy)aniline
A mixture of 1-(3-bromo-5-nitrophenoxy)-2,4-difluorobenzene (54 mg, 0.16 mmol), ammonium chloride (18 mg, 0.32 mmol), and iron powder (45 mg, 0.80 mmol) suspended in THF (300 uL), water (100 uL) and ethanol (300 uL) was heated to 100° C. using microwave irradiation (normal) for 3 h. The crude reaction mixture was filtered through a short plug of celite; the celite plug was washed with MeOH (˜5 mL). The resulting filtrate was concentrated in vacuo. The resulting residue was diluted with EtOAc (50 ml) and washed with saturated bicarbonate solution (aq), dried over anhydrous magnesium sulfate, filtered, and concentrated in vacuo. The crude solid was purified by silica gel column chromatography using a gradient of EtOAc (5 to 20%) in hexanes to afford the title compound (48 mg, 100%) as a yellow solid. LCMS (M+H)+=301.

reactant | 1-(3-bromo-5-nitrophenoxy)-2,4-difluorobenzene | 0.16 mmol, 54 mg | BrC=1C=C(OC2=C(C=C(C=C2)F)F)C=C(C1)[N+](=O)[O-] | C12H6BrF2NO3
reactant | ammonium chloride | 0.32 mmol, 18 mg | [Cl-].[NH4+]
reactant | water | 100 uL | O | H2O
reactant | ethanol | 300 uL | C(C)O | C2H6O
solvent | THF | 300 uL | C1CCOC1 | C4H8O
catalyst | iron | 0.80 mmol, 45 mg | [Fe] | Fe
product | 3-bromo-5-(2,4-difluorophenoxy)aniline | 48 mg, 100% | BrC=1C=C(N)C=C(C1)OC1=C(C=C(C=C1)F)F | C12H8BrF2NO
